US05258513
2-Cyclopropyl-4-cyclopropylamino-6-morpholino-1,3,5-triazine.
2.85 g (0.050 mole) of cyclopropylamine dissolved in 20 ml of dioxane are added to a solution of 5.1 g (0.021 mole) of 2-chloro-4-cyclopropyl-6-morpholino-1,3,5-triazine in 50 ml of dioxane at room temperature. The mixture is heated under reflux for 5 hours. The solvent is then evaporated under reduced pressure and the residue is dissolved in 50 ml of dichloromethane and 50 ml of water. The organic phase is separated off and dried over sodium sulfate and the solvent is evaporated under reduced pressure. The residue crystallizes from cold hexane. 5.22 g of product are obtained. This product forms a hydrochloride in an ethanol-diethyl ether mixture. 5.1 g of 2-cyclopropyl-4-cyclopropylamino-6-morpholino-1,3,5-triazine hydrochloride, which is identical to compound 3 prepared in example 2. B.1., are obtained. Yield: 81.7%. M.P.: 183°-184° C. (acetonitrile).

reactant | hydrochloride | Cl | ClH
reactant | ethanol diethyl ether | C(C)O.C(C)OCC
reactant | 2-cyclopropyl-4-cyclopropylamino-6-morpholino-1,3,5-triazine hydrochloride | 5.1 g | Cl.C1(CC1)C1=NC(=NC(=N1)NC1CC1)N1CCOCC1
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Cyclopropyl-4-cyclopropylamino-6-morpholino-1,3,5-triazine | C1(CC1)C1=NC(=NC(=N1)NC1CC1)N1CCOCC1 | C13H19N5O
